data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,5106,"CC1=CC=C(S(=O)(=O)[O-])C=C1.COC1=C(OC)C=C([CH:1]=[OH+:2])C(Br)=C1.OCCC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8450,"CC[NH+:1](C([O-])CCC(C)=O)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6475,"CC(=O)[O:1][H:2].CNC(C)(C)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5078,"CO[C:1]([C:2]1([H:3])CCC2CC(C)C1OC2=O)=[O:4].C[O-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,760,"CC(C)[OH+:1][H:2].CC(C)[O][Al-]([O]C(C)C)([O]C1CCN(C)CC1)[O:3][C:4]1=[CH:5][C:6]2=[CH:7]CC3C4CCC(=O)C4(C)CCC3C2(O)CC1|(3, 4);((4, 5), 6);((6, 7), 2);((2, 1), 1)"
train,pmechdb_split_0,0,662,"C1=CC=NC=C1.CC1(C)CC2=CC3=COC=C3CC2(O)C(O)C1.CC1=CC=C([S:1](=O)(Cl)=[O:2])C=C1.CN(C)C1=CC=[N:3]C=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9824,"O=C(C=C(O)CC1=CC=CC=C1)O[C:1](C1=CC=CC=C1)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6876,"NC([NH2+]C(=O)[O:1][H:2])=C([N+](=O)[O-])[N+](=O)[O-].O=C=O.O=S(=O)(O)[O-:3].O=[N+]([O-])C[N+](=O)[O-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4323,"CCC(C=O)(CCCNC(=O)CCl)CC[C:1]1=[NH+:2]C2=C(C=CC=C2)[CH:3]1[H:4].O.O=C(C(F)(F)F)[O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2766,"[H:1][NH3+:2].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2343,"CC1[CH:1](CCCC[O-:2])[O:3]1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3748,"CO[C:1](C)=[O+:2][Al-:3]([CH2]C(C)C)([CH2]C(C)C)[H:4]|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,3265,"C1=CC=[NH+]C=C1.CCC(=O)NC(CC1CCCCC1)C(=O)O[C:1](CC)([O-:2])[O:3]C(=O)CC|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4421,"CP(C)(C)=[O:1].[H:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2444,"BrC(Br)Br.Br[P+:1](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C1=CC2=C(C=C1)C(CC[O-:2])=CN2|(2, 1)"
train,pmechdb_split_0,0,5655,"C1=CC(CC[O-:1])=CC=N1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9598,"CCC1C=CC(O)C(CCCC#N)C1[C:1]([N:2]([N+](C)(C)C)[H:3])=[O:4].O=C([O-])[O][K].[I-:5].[K+]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,1298,"CC1CCC[C+:1]([CH:2](C)[H:3])C1.CC[OH:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,9230,"O[C:1]1([NH2:2])OCC[OH+:3]1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2421,"BrC1=NC([NH2:1])=CC=C1.CC(=O)CC[C:2](C)=[O:3].CC(=O)O|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,10269,"C[N+:1](C)=[CH:2][S-]|((2, 1), 1)"
train,pmechdb_split_0,0,281,"CCCCCC(C1CCCCC1)[O:1][H:2].[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,1380,"COC1=CC2=C(C[C:1]#[N:2])C=CC=C2C=C1.[H:3][AlH3-:4]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,1364,"COC(C[C+:1](C)[CH2:2][Si-:3](C)(C)(C)OS(=O)(=O)C(F)(F)F)C1=CC=CC=C1.CO[Si](C)(C)C|((3, 2), 1)"
train,pmechdb_split_0,0,6787,"C[P:1](Cl)Cl.[CH3][Mg:2][Cl]|(1, 2)"
train,pmechdb_split_0,0,6767,"O[CH:1]([OH:2])[I:3].[Cl-]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8175,"COC(=O)C1(C(=O)OC)CC(C2=CC=CC=C2)[CH:1]([N-:2][N+:3]#N)[CH:4]1C1=CC=CC=C1|((1, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,2293,"CCC(=O)N[C:1]1=[CH:2][CH:3]=[CH:4]C=C1.O=[N+:5]=[O:6]|((1, 2), 3);((3, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,6798,"C1=NN=N[N-:1]1.CC1=CN(C2CC(O)C(C)O2)C(=O)NC1=O.CC1=CN(C2CC(O[PH+:2](OCCC#N)N(C(C)C)C(C)C)C(COC(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)O2)C(=O)NC1=O|(1, 2)"
train,pmechdb_split_0,0,9405,"C[CH:1]=[NH+:2]C.[Cl-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5454,"C1=CC=CC=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.O=C1CCC2CCCC3=C2C1[CH:1]([OH2+:2])[O:3]3|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,497,"CC[OH+:1][C:2](C)(O)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1489,"CC[OH:1].C[CH:2]=[N+:3](C)C|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,217,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CC1=CC=CC=C1.O=C1CC([C:1](OCC2=CC=CC=C2)([OH2+:2])[OH:3])C1.OCC1=CC=CC=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7782,"N#[C-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6107,"CCOCC([O-])(Cl)[NH+:1](C1=C(Cl)N=C2C=CC=CC2=C1NCC(C)(C)O)[H:2].CC[N:3](CC)CC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1837,"CO[C:1](N)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,10236,"CO[CH:1]=[S:2]|((1, 2), 2)"
train,pmechdb_split_0,0,7431,"CCCC[N+](CCCC)(CCCC)CCCC.O=C(O)C1(C2=CC=CC=C2)[CH:1](C(=O)C2=CC=CC=C2)[O:2]1.[Br-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9052,"CC(O)=[O:1].CC1=CC=C(S(=O)(=O)[O-])C=C1.CCCCC1CC(CNC(C)=O)C[CH+:2]CCC(CC)C(CCC2CCCCO2)C1|(1, 2)"
train,pmechdb_split_0,0,4389,"CO[P:1](OC)OC.[CH3:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7775,"COC(=O)C1CCC2(CC1)OCC[O+:1]2[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6116,"CC[CH:1](C)[O:2]S(=O)(=O)C(F)(F)F.CC[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,494,"CO[C:1](C)([OH:2])[OH+:3]C.[Cl-]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3785,"CC(=O)[O:1][H:2].O=C(O)CNC(CCC(=O)C1=CC=CO1)(C1=CC=CC=C1)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3751,"CCC(C)(C)[N:1](C)C.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7792,"CC(C)[C:1]1([H:2])C=CC=C[C+:3]1Br.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
